US08017611B2
Sodium hydride (57.7 mg, 60% in oil) was added to tert-butyl 4-[4-bromo-3-(hydroxymethyl)pyrazol-1-yl]piperidine-1-carboxylate (200 mg) dissolved in degassed DMF (2 mL) under nitrogen. The resulting solution was stirred at room temperature for 10 minutes. Dimethyl sulfate (0.068 ml) was added and the resulting solution was stirred at 25° C. for 1 hour. The reaction mixture was quenched with water and diluted with ethyl acetate. The aqueous phase was extracted with ethyl acetate. The combined organic phases were washed with a saturated aqueous solution of brine, dried over magnesium sulfate and concentrated in presence of silica gel to afford the crude, which was purified by flash chromatography on silica gel eluting with 0 to 100% ethyl acetate in petroleum ether. The solvent was evaporated to dryness to afford tert-butyl 4-[4-bromo-3-(methoxymethyl)pyrazol-1-yl]piperidine-1-carboxylate (180 mg). NMR Spectrum: (DMSOd6) 1.41 (s, 9H), 1.71 (dd, 1H), 1.76 (dd, 1H), 1.96 (bs, 1H), 1.98 (bs, 1H), 2.87 (bs, 2H), 3.22 (3H), 4.02 (bs, 2H), 4.28 (s, 2H), 4.29-4.36 (m, 1H), 8.04 (s, 1H).

reactant | Sodium hydride | 57.7 mg | [H-].[Na+]
reactant | tert-butyl 4-[4-bromo-3-(hydroxymethyl)pyrazol-1-yl]piperidine-1-carboxylate | 200 mg | BrC=1C(=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)CO | C14H22BrN3O3
reactant | Dimethyl sulfate | 0.068 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-[4-bromo-3-(methoxymethyl)pyrazol-1-yl]piperidine-1-carboxylate | 180 mg | BrC=1C(=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)COC | C15H24BrN3O3
